US04073795
Alpha-acetamido-6-methylindole-3-acrylic acid monohydrate
three-necked flask, equipped with a mechanical stirrer, a thermometer and a dropping funnel was charged with 159.5 g (0.56 mol) of crude alpha-acetamido-6-methylindole-3-acrylic acid ethylester and 475 ml of methanol. The mixture was heated in an oil bath to 50°. A solution of 66.8 g (1.67 mol) of sodium hydroxide in 320 ml of water was added over 3 minutes and the resulting brown solution was stirred at 50° for 45 minutes. The reaction mixture was cooled with an ice bath to 25° and 600 ml of 4-N hydrochloric acid was added over 20 minutes at 25°. The precipitate was collected on a Buchner funnel, washed with 900 ml of water and dried at 50° overnight and at 60°/0.5 mm for 3 hours. The beige solid (146 g) was dissolved in 1 1 of methanol and 175 ml of dimethylformamide at reflux. 10 g of charcoal was added and reflux was continued for 10 minutes. The mixture was filtered through a bed of Celite and the clear brown solution was brought again to reflux. 425 ml of water was added over a 20 minute period, while reflux was maintained. The mixture was refrigerated for 3 hours. The product was collected by suction filtration, washed with 750 ml of 1:1 methanol - water and dried at 50° for 24 hours (const. weight) to yield 119.9 g (69%, based on 6-methylindole-3-carboxaldehyde of product as yellow crystals, m.p. 229° (dec.).

reactant | alpha-acetamido-6-methylindole-3-acrylic acid ethylester | 0.56 mol, 159.5 g | C(C)OC(C(=CC1=CNC2=CC(=CC=C12)C)NC(C)=O)=O | C16H18N2O3
reactant | methanol | 475 ml | CO | CH4O
reactant | sodium hydroxide | 1.67 mol, 66.8 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 320 ml | O | H2O
product | Alpha-acetamido-6-methylindole-3-acrylic acid monohydrate | O.C(C)(=O)NC(C(=O)O)=CC1=CNC2=CC(=CC=C12)C | InChI=1S/C14H14N2O3.H2O/c1-8-3-4-11-10(7-15-12(11)5-8)6-13(14(18)19)16-9(2)17;/h3-7,15H,1-2H3,(H,16,17)(H,18,19);1H2
